US06051712
From β-trimethylsilylethyl (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-(2-trimethylsilyl-ethoxymethoxy)-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate by cleaving the β-trimethylsilylethyl carbamate with tetrabutylammonium fluoride in tetrahydrofuran in analogy to the procedure described in Example 5 there was obtained (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-(2-trimethylsilyl-ethoxymethoxy)-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine as a rose coloured oil; MS: 588 (M+H)+.

reactant | β-trimethylsilylethyl (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-(2-trimethylsilyl-ethoxymethoxy)-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC[Si](C)(C)C)OCC1=CC2=CC=CC=C2C(=C1)OCC1=C(C=CC=C1)OCOCC[Si](C)(C)C | C41H54FNO6Si2
reactant | β-trimethylsilylethyl carbamate | C(N)(OCC[Si](C)(C)C)=O | C6H15NO2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-(2-trimethylsilyl-ethoxymethoxy)-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine | FC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C(=C1)OCC1=C(C=CC=C1)OCOCC[Si](C)(C)C | C35H42FNO4Si
